US09126981B2
Synthesis of 5-chlorothieno[3,2-b]pyridine-3-carbaldehyde (Compound XIX-1)
To a solution of phosphoryl chloride (14.9 ml, 160 mmol) in dimethylformamide (45 ml) was added portionwise N-(2-oxotetrahydrothiophen-3-yl)acetamide (12.74 g, 80 mmol) and the mixture was stirred at 90° C. for 2 hr. The reaction mixture was poured into ice water (400 ml) and followed by addition of saturated sodium acetate (500 ml). The solution was extracted by ethyl acetate (1000 ml). The organic layer was washed with water (300 ml), water (400 ml) and brine (200 ml). Then the organic layer was dried over magnesium sulfate, filtered and the filtrate was concentrated in vacuo. The residue was crystallized by addition of ethyl acetate/ether (1:1, 200 ml) and the crystals were collected by filtration to obtain the title compound (3.55 g, 18%).

reactant | phosphoryl chloride | 160 mmol, 14.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(2-oxotetrahydrothiophen-3-yl)acetamide | 80 mmol, 12.74 g | O=C1SCCC1NC(C)=O | C6H9NO2S
reactant | sodium acetate | 500 ml | C(C)(=O)[O-].[Na+]
reactant | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 5-chlorothieno[3,2-b]pyridine-3-carbaldehyde | 3.55 g, 18% | ClC1=CC=C2C(=N1)C(=CS2)C=O | C8H4ClNOS
